US04460782
Preparation of 2-methoxysuccinic acid N-(3,5-dichlorophenyl) imide.
130 g (1 mole) of 2-methoxysuccinic acid anhydride and 162 g (1 mole) of 3,5-dichloroaniline are heated under reflux for three hours, in 1500 ml of xylene. The resulting water is azeotropically separated off by means of a water separator. The xylene is then distilled off and the crude product is recrystallized from methanol/water. Melting point: 125° to 126° C.; yield: 75% of the theoretical yield.

reactant | 2-methoxysuccinic acid anhydride | 1 mole, 130 g | COC1C(=O)OC(C1)=O | C5H6O4
reactant | 3,5-dichloroaniline | 1 mole, 162 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | xylene | 1500 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-methoxysuccinic acid N-(3,5-dichlorophenyl) imide | yield: 75% | ClC=1C=C(C=C(C1)Cl)N=C(C(CC(=O)O)OC)O | C11H11Cl2NO4
